US07342115B2
A cyclohexylmagnesium chloride solution (2 M in THF, 1 mL) is slowly added to a solution of 6-(2,6-diethyl-phenyl)-4-ethoxy-pyridine-3-carbaldehyde (prepared as described above) (142 mg, 0.5 mmol) in ether (2 mL) at 0° C., and the resulting mixture is stirred at room temperature for 30 minutes. Saturated ammonium chloride solution (1 mL) is added to quench the reaction. The organic layer is separated and dried over anhydrous Na2SO4. The solvents are removed in vacuo and the crude is purified with PTLC (hexanes/ethyl acetate 3:1) to give cyclohexyl-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-methanol. 1H NMR: (CDCl3) 8.40 (s, 1H), 7.28 (t, 1H), 7.16 (d, 2H), 6.76 (S, 1H), 4.54 (t, 1H), 4.08 (q, 2H), 2.32 (m, 4H), 2.05 (br, 1H), 1.75 (m, 4H), 1.40 (m, 4H), 1.05 (m, 10H).

reactant | cyclohexylmagnesium chloride | 2 M, 1 mL | C1(CCCCC1)[Mg]Cl
reactant | 6-(2,6-diethyl-phenyl)-4-ethoxy-pyridine-3-carbaldehyde | 0.5 mmol, 142 mg | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C=N1)C=O)OCC | C18H21NO2
reactant | ammonium chloride | 1 mL | [Cl-].[NH4+]
solvent | ether | 2 mL | CCOCC | C4H10O
product | cyclohexyl-[6-(2,6-diethyl-phenyl)-4-ethoxy-pyridin-3-yl]-methanol | C1(CCCCC1)C(O)C=1C=NC(=CC1OCC)C1=C(C=CC=C1CC)CC | C24H33NO2
